US05109013
2-[2-(Dimethylamino)ethyl]-3,4-dihydro-1,4-dimethyl-1H-[1,3,5]triazepino[3,2-a]benzimidazol-5(2H)-one monohydrate
To 90 mL of freshly collected dimethylamine and 10 mL of methanol was added 3.25 g (0.011 mol) of 2-(2-chloroethyl)-3,4-dihydro-1,4-dimethyl-1H-[1,3,5]triazepino[3,2-a]benzimidazol-5(2H)-one. The reaction flask was sealed and left standing at room temperature for 6 days. The dimethylamine was then allowed to evaporate at room temperature and the residue partitioned between 75 mL of 1N NaOH and 75 mL of CH2Cl2. The organic phase was washed with another 50 mL of 1N NaOH. The combined organic layers were dried over Na2SO4, filtered, and concentrated by rotary evaporation. The solid residue was recrystallized from isopropyl ether to give 2.8 g of white analytically pure crystals, mp 91°-95° C.

reactant | dimethylamine | CNC | C2H7N
reactant | 2-(2-chloroethyl)-3,4-dihydro-1,4-dimethyl-1H-[1,3,5]triazepino[3,2-a]benzimidazol-5(2H)-one | 0.011 mol, 3.25 g | ClCCC1CN(C(N2C(=NC3=C2C=CC=C3)N1C)=O)C | C14H17ClN4O
solvent | methanol | 10 mL | CO | CH4O
product | 2-[2-(Dimethylamino)ethyl]-3,4-dihydro-1,4-dimethyl-1H-[1,3,5]triazepino[3,2-a]benzimidazol-5(2H)-one monohydrate | O.CN(CCC1CN(C(N2C(=NC3=C2C=CC=C3)N1C)=O)C)C | InChI=1S/C16H23N5O.H2O/c1-18(2)10-9-12-11-19(3)16(22)21-14-8-6-5-7-13(14)17-15(21)20(12)4;/h5-8,12H,9-11H2,1-4H3;1H2
